US06566357B1
Preparation of 2-phenoxy-pyrimidine-4-carbonyl chloride (16):
To a solution of 2-phenoxy-pyrimidine-4-carboxylic acid, 15, (0.19 g, 0.89 mmol) in methylene chloride (10 Ml) containing a few drops of DMF is added oxalyl chloride (0.1 Ml). The solution is stirred for 2 hours at room temperature and concentrated in vacuo to afford the desired product which is used without further purification.

reactant | 2-phenoxy-pyrimidine-4-carboxylic acid | O(C1=CC=CC=C1)C1=NC=CC(=N1)C(=O)O | C11H8N2O3
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
product | 2-phenoxy-pyrimidine-4-carbonyl chloride | O(C1=CC=CC=C1)C1=NC=CC(=N1)C(=O)Cl | C11H7ClN2O2
